US08754073B2
56.2 (S)-5-amino-1-(4-fluoro-benzyl)-piperidin-2-one
0.5 g (S)-5-dibenzylamino-1-(4-fluorobenzyl)-piperidin-2-one are placed in 20 ml of methanol and hydrogenated with 0.150 g Pd/C 10% at a pressure of 3 bar and a temperature of 60° C. After 5 hours the catalyst is suction filtered and the filtrate is evaporated to dryness. 0.21 g of the product are obtained as an oil. Analytical HPLC-MS (method A): RT=0.68 min.

reactant | (S)-5-dibenzylamino-1-(4-fluorobenzyl)-piperidin-2-one | 0.5 g | C(C1=CC=CC=C1)N([C@H]1CCC(N(C1)CC1=CC=C(C=C1)F)=O)CC1=CC=CC=C1 | C26H27FN2O
solvent | methanol | 20 ml | CO | CH4O
catalyst | Pd/C | 0.150 g | [Pd] | Pd
product | (S)-5-amino-1-(4-fluoro-benzyl)-piperidin-2-one | 0.21 g | N[C@H]1CCC(N(C1)CC1=CC=C(C=C1)F)=O | C12H15FN2O
